US07468367B2
Description 3: Methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-carbamic acid dimethyl-ethyl ester
Trifluoroacetic anhydride (2.23 ml, 15.8 mmol) was added drop-wise to an ice-cooled stirring solution of (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester (2.5 g, 14.4 mmol) and triethylamine (2.4 ml, 17.2 mmol) in dichloromethane (80 ml) under argon. After string for 1 h, the ice-bath was removed and stirring continued for a further 72 h. The reaction mixture was diluted with dichloromethane, washed with aqueous sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo to afford the title compound as a colourless gum (3.61 g, 93%).

reactant | Trifluoroacetic anhydride | 15.8 mmol, 2.23 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester | 14.4 mmol, 2.5 g | CC(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | triethylamine | 17.2 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-carbamic acid dimethyl-ethyl ester | 3.61 g, 93% | CC(C)(C)OC(N(CCNC(C(F)(F)F)=O)C)=O | C10H17F3N2O3
